US09227976B2
Step 4: Synthesis of 4-(2-phenylethynyl)-3-(trifluoromethyl)-1H-pyrazol-5-amine
A solution of N-[4-(2-phenylethynyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]acetamide (900 mg, 3.07 mmol) in ethanol (12 mL) and 25% NaOH (9 mL) was heated to 70° C. for 1.5 h. The organic layer was separated and the aqueous extracted with EtOAc (×2). The combined organics were washed with water and the wash extracted with EtOAc. The combined organics were dried over MgSO4, filtered and evaporated, yielding the title compound as a red oil (652 mg) which was used in the subsequent step.

reactant | N-[4-(2-phenylethynyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]acetamide | 3.07 mmol, 900 mg | C1(=CC=CC=C1)C#CC=1C(=NNC1NC(C)=O)C(F)(F)F | C14H10F3N3O
solvent | ethanol | 12 mL | C(C)O | C2H6O
solvent | NaOH | 9 mL | [OH-].[Na+]
product | 4-(2-phenylethynyl)-3-(trifluoromethyl)-1H-pyrazol-5-amine | 652 mg | C1(=CC=CC=C1)C#CC=1C(=NNC1N)C(F)(F)F | C12H8F3N3
